US07897607B2
2-Amino-5-mesityl-7-methyl-3,7-dihydro-4H-pyrrolo[2,3-d]pyrimidin-4-one
A solution of dimethylsulfoxide (468 mg, 6.00 mmol) and acetonitrile (8 ml) was added to a mixture of mesitylacetoaldehyde (904 mg, 5.57 mmol), bromotrimethylsilane (919 mg, 6.00 mmol) and acetonitrile (8 ml) at 0° C. After stirring at room temperature for 0.5 hour, the mixture was diluted with water (70 ml) and extracted with ethyl acetate (100 ml×2). The extracts were combined, washed with brine, dried over sodium sulfate and concentrated in vacuo. A mixture of the residue, 2-amino-6-(methylamino)pyrimidin-4-ol (1.69 g, 6.00 mmol), potassium carbonate (50 mg) and dimethylsulfoxide (3 ml) was heated at 100° C. for 1 hour. After cooling, the mixture was diluted with water (100 ml) and extracted with ethyl acetate (100 ml×2). The extracts were combined, washed with saturated aqueous sodium hydrogen carbonate and brine, dried over sodium sulfate and concentrated in vacuo. The residue was purified by silica gel chromatography eluting with hexane/ethyl acetate (1:1) to give 1.07 g (68%) of the title compound.

reactant | mesitylacetoaldehyde | 5.57 mmol, 904 mg | C1(=C(C(=CC(=C1)C)C)CC=O)C | C11H14O
reactant | bromotrimethylsilane | 6.00 mmol, 919 mg | Br[Si](C)(C)C | C3H9BrSi
reactant | 2-amino-6-(methylamino)pyrimidin-4-ol | 6.00 mmol, 1.69 g | NC1=NC(=CC(=N1)O)NC | C5H8N4O
solvent | water | 70 ml | O | H2O
solvent | water | 100 ml | O | H2O
catalyst | potassium carbonate | 50 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylsulfoxide | 3 ml | CS(=O)C | C2H6OS
solvent | acetonitrile | 8 ml | C(C)#N | C2H3N
solvent | acetonitrile | 8 ml | C(C)#N | C2H3N
solvent | dimethylsulfoxide | 6.00 mmol, 468 mg | CS(=O)C | C2H6OS
product | 2-Amino-5-mesityl-7-methyl-3,7-dihydro-4H-pyrrolo[2,3-d]pyrimidin-4-one | 1.07 g, 68% | NC=1NC(C2=C(N1)N(C=C2C2=C(C=C(C=C2C)C)C)C)=O | C16H18N4O
